US09351955B2
3-(tert-Butyl-dimethyl-silanyloxy)-butyric acid
3-Hydroxy-butyric acid (500 mg, 4.8 mmol) is dissolved in a mixture of TBSCl (1.5 g, 10.1 mmol) in dry DCM (48 mL). The resulting mixture is stirred overnight at room temperature. The resulting suspension is then filtered and the obtained residues are washed with DCM, then stirred in Et2O and filtered. The obtained filtrate is evaporated to give the desired product that is used as such.

reactant | 3-Hydroxy-butyric acid | 4.8 mmol, 500 mg | OC(CC(=O)O)C | C4H8O3
reactant | TBSCl | 10.1 mmol, 1.5 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DCM | 48 mL | C(Cl)Cl | CH2Cl2
product | 3-(tert-Butyl-dimethyl-silanyloxy)-butyric acid | C(C)(C)(C)[Si](OC(CC(=O)O)C)(C)C | C10H22O3Si
